US04816454
6-(4-(2-Oxo-oxazolidin-5-yl)-methoxy-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
5.9 g (0.019 mole) of 4-(4-(2-oxo-oxazolidin-5-yl)-methoxyphenyl)-4-oxo-3-methyl-butyric acid and 1.5 ml (0.031 mole) of hydrazine hydrate are heated under reflux in 30 ml of methanol for 1 hour.

reactant | 4-(4-(2-oxo-oxazolidin-5-yl)-methoxyphenyl)-4-oxo-3-methyl-butyric acid | 0.019 mole, 5.9 g | O=C1OC(CN1)C1=CC(=C(C=C1)C(C(CC(=O)O)C)=O)OC | C15H17NO6
reactant | hydrazine hydrate | 0.031 mole, 1.5 ml | O.NN
solvent | methanol | 30 ml | CO | CH4O
product | 6-(4-(2-Oxo-oxazolidin-5-yl)-methoxy-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | O=C1OC(CN1)C1=CC(=C(C=C1)C=1C(CC(NN1)=O)C)OC | C15H17N3O4
